US06720351B2
(g) (S)-1-Ethyl-5-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-1H-indole-2-carboxylic acid [2-(benzylamino)-2-oxo-1-phenylethyl]amide
1-Ethyl-5-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-1H-indole-2-carboxylic acid (0.05 g, 0.11 mmol) and (S)-2-Amino-N-benzyl-2-phenyl-acetamide hydrochloride (0.031 g, 0.11 mmol) were combined in DCM (3 mL) and DIEA (1.1 mL) was added to the above mixture. PyBroP (0.077 g, 0.17 mmol) was added to the above mixture in one portion. The mixture which was resulted was stirred overnight. The crude mixture was then purified by HPLC to furnish the desired product (52.7 mg). HPLC retention time 16.892 min.; Mol. Wt. (calc) 674.7; MS (found) 675.2.

reactant | 1-Ethyl-5-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-1H-indole-2-carboxylic acid | 0.11 mmol, 0.05 g | C(C)N1C(=CC2=CC(=CC=C12)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)C(=O)O | C25H19F3N2O3
reactant | (S)-2-Amino-N-benzyl-2-phenyl-acetamide hydrochloride | 0.11 mmol, 0.031 g | Cl.N[C@H](C(=O)NCC1=CC=CC=C1)C1=CC=CC=C1
reactant | DIEA | 1.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | PyBroP | 0.17 mmol, 0.077 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-Ethyl-5-[(4′-trifluoromethyl-biphenyl-2-carbonyl)-amino]-1H-indole-2-carboxylic acid [2-(benzylamino)-2-oxo-1-phenylethyl]amide | 52.7 mg | C(C1=CC=CC=C1)NC([C@H](C1=CC=CC=C1)NC(=O)C=1N(C2=CC=C(C=C2C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F)CC)=O | C40H33F3N4O3
